US04894458
2,4,5-Trifluoro-3-methylbenzoic acid
A mixture of 2,4,5-trifluoro-3-methylbenzamide (0.38 g) in 18N sulfuric acid (3 ml) was stirred on an oil bath (100° to 110° C.) for 2 hours. After cooling, to the reacting mixture was added ice-water (10 ml), the resulting precipitate was collected by filtration and recrystallized from hexane to give the title compound (0.30 g) as colorless needles, mp 103°-105° C.

reactant | 2,4,5-trifluoro-3-methylbenzamide | 0.38 g | FC1=C(C(=O)N)C=C(C(=C1C)F)F | C8H6F3NO
reactant | sulfuric acid | 18N, 3 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4,5-Trifluoro-3-methylbenzoic acid | 0.30 g | FC1=C(C(=O)O)C=C(C(=C1C)F)F | C8H5F3O2
